US06531478B2
A mixture of 4-{5-[bis(Benzenesulfonyl)amino]-1-phenyl-1H-pyrazole-3-yl}-benzoic acid methyl ester (1.0 g, 1.74 mmol) and lithium hydroxide monohydrate (1.0 g, 23.8 mmol) in methanol (20 ml) was stirred at room temperature for 2.5 days. The solvent was evaporated in vacuo, and the residue was dissolved in water (20 ml). The solution was neutralized with concentrated hydrochloric acid to give a white precipitate. The solid was collected by filtration, washed with water and dried in vacuo to yield 4-(5-benzenesulfonylamino-1-phenyl-1H-pyrazole-3-yl)-benzoic acid as a solid.

reactant | 4-{5-[bis(Benzenesulfonyl)amino]-1-phenyl-1H-pyrazole-3-yl}-benzoic acid methyl ester | 1.74 mmol, 1.0 g | COC(C1=CC=C(C=C1)C1=NN(C(=C1)N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H23N3O6S2
reactant | lithium hydroxide monohydrate | 23.8 mmol, 1.0 g | O.[OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(5-benzenesulfonylamino-1-phenyl-1H-pyrazole-3-yl)-benzoic acid | C1(=CC=CC=C1)S(=O)(=O)NC1=CC(=NN1C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C22H17N3O4S
